US07268232B2
4-(4-Benzoylpiperidin-1-yl)naphthalene-1-carbonitrile (196MBT2-19)
The title compound (3 mg, 8% yield) was prepared as described for 196MBT2-4 from 1-cyano-4-fluoronaphthalene (20 mg, 0.117 mmol) and 4-benzoylpiperidine (89 mg, 0.468 mmol).

reactant | 1-cyano-4-fluoronaphthalene | 0.117 mmol, 20 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | 4-benzoylpiperidine | 0.468 mmol, 89 mg | C(C1=CC=CC=C1)(=O)C1CCNCC1 | C12H15NO
product | 4-(4-Benzoylpiperidin-1-yl)naphthalene-1-carbonitrile | 3 mg, 8% yield | C(C1=CC=CC=C1)(=O)C1CCN(CC1)C1=CC=C(C2=CC=CC=C12)C#N | C23H20N2O
